US07691850B2
(c) (±)-4-{2-[3-methyl-3-({[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}methyl)-1-pyrrolidinyl]ethyl}-6-(methyloxy)-3-quinolinecarbonitrile
To a solution of the HCl salt of 4-{2-[3-(aminomethyl)-3-methyl-1-pyrrolidinyl]ethyl}-6-(methyloxy)-3-quinolinecarbonitrile (50 mg) in MeOH (2 mL) and DCM (2 mL) were added NaHCO (130 mg, 1.6 mmol) followed by 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde (30 mg, 0.18 mmol). After 24 h at 25° C., NaBH (10 mg, 0.27 mmol) was added. After 1 h, the reaction was concentrated and the residue was partitioned between DCM-H O. The aqueous phase was extracted several times with DCM and the combined organic fractions were dried over MgSO, concentrated and purified via column chromatography (silica, 4% MeOH in DCM (1% NH OH)) yielding the title compound (20 mg) as a brown oil: LC/MS (ES) m/e 503 (M+H) 1H NMR (CDCl3, 400 MHz) δ 8.85 (s, 1H), 8.22 (d, J=9.0 Hz, 1H), 7.58 (d, J=7.8 Hz, 1H), 7.55 (d, J=9.0 Hz, 1H), 7.35 (s, 1H), 6.95 (d, J=7.8 Hz, 1H), 4.12 (s, 3H), 3.83 (s, 2H), 3.51 (m, 3H), 2.9-2.5 (m, 6H), 2.3 (m, 1H), 1.85 (m, 1H), 1.55 (m, 1H), 1.1 (s, 3H).

reactant | HCl | Cl | ClH
reactant | 4-{2-[3-(aminomethyl)-3-methyl-1-pyrrolidinyl]ethyl}-6-(methyloxy)-3-quinolinecarbonitrile | 50 mg | NCC1(CN(CC1)CCC1=C(C=NC2=CC=C(C=C12)OC)C#N)C | C19H24N4O
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde | 0.18 mmol, 30 mg | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
solvent | MeOH | 2 mL | CO | CH4O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (±)-4-{2-[3-methyl-3-({[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}methyl)-1-pyrrolidinyl]ethyl}-6-(methyloxy)-3-quinolinecarbonitrile | 20 mg | CC1(CN(CC1)CCC1=C(C=NC2=CC=C(C=C12)OC)C#N)CNCC=1C=CC=2SCC(NC2N1)=O | C27H30N6O2S
